US07576215B2
3-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-1H-INDOLE-6-CARBOXYLIC ACID
The title compound was prepared from [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 3-formyl-1H-indole-6-carboxylic acid methyl ester according to the procedure of Example 66. MS (ESI) m/z 564.

reactant | [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | 3-formyl-1H-indole-6-carboxylic acid methyl ester | COC(=O)C1=CC=C2C(=CNC2=C1)C=O | C11H9NO3
product | 3-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-1H-INDOLE-6-CARBOXYLIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CNC2=CC(=CC=C12)C(=O)O)C(F)(F)F | C33H22F3N3O3
